US05021434
0.109 g of 4-[1-(1-imidazolyl)-butyl]pyridine-N-oxide is dissolved in 2 ml of acetonitrile, 0.150 g of trimethylsilyl cyanide and 0.101 g of triethylamine are added to it. The reaction is left for 22 hours at 110° C. The mixture is concentrated by evaporation in a vacuum and then distilled on a bulb tube, boiling point: 210°-220° C./0.035 mbar. 0.102 g of 4-[1-(1-imidazolyl)-butyl]-2-cyanopyridine is obtained as brownish oil.

reactant | 4-[1-(1-imidazolyl)-butyl]pyridine-N-oxide | 0.109 g | N1(C=NC=C1)C(CCC)C1=CC=[N+](C=C1)[O-] | C12H15N3O
reactant | trimethylsilyl cyanide | 0.150 g | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | 0.101 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[1-(1-imidazolyl)-butyl]-2-cyanopyridine | 0.102 g | N1(C=NC=C1)C(CCC)C1=CC(=NC=C1)C#N | C13H14N4
